US05138058
1 g of 2-methyl-4-piperazino-pyrimidine was dissolved in 50 ml of acetone, and 2 g of potassium carbonate and 0.8 g of benzoyl chloride were added. The suspension was refluxed for 6 h until starting compound was no longer detectable. After filtration, the filtrate was concentrated in vacuo, and the residue was recrystallized from dichloromethane/petroleum ether. 0.5 g of 2-methyl-4-(4-benzoyl-piperazino)-pyrimidine was obtained. (Melting point: 147° C.)

reactant | 2-methyl-4-piperazino-pyrimidine | 1 g | CC1=NC=CC(=N1)N1CCNCC1 | C9H14N4
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 0.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-methyl-4-(4-benzoyl-piperazino)-pyrimidine | 0.5 g | CC1=NC=CC(=N1)N1CCN(CC1)C(C1=CC=CC=C1)=O | C16H18N4O
